2126-11-28 11:34:00 Physician Attending Progress Note
Chief Complaint: Pnemonia, afib, hypoxemia, anemia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient remains febrile. Was in afib throughout the day yesterday;
   converted to sinus with diltiazem last night.
   O2 sats acceptable on supplemental O2 at 5-6L/min.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-11-27**] 02:57 PM
 BLOOD CULTURED - At [**2126-11-27**] 04:57 PM
 FEVER - 102.1
F - [**2126-11-27**] 05:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-11-28**] 12:16 AM
   Vancomycin - [**2126-11-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2126-11-27**] 02:35 PM
   Enoxaparin (Lovenox) - [**2126-11-27**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-28**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37
C (98.6
   HR: 96 (83 - 135) bpm
   BP: 103/51(64) {70/27(38) - 114/58(69)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,846 mL
                                                                    601 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,726 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    575 mL
   Urine:
                                                                  1,645 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    201 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Left lung, Crackles : Right base, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   149 K/uL
   90 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   16 mg/dL
   104 mEq/L
   134 mEq/L
   25.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-11-25**]  08:24 PM
                             [**2126-11-26**]  03:25 AM
                             [**2126-11-26**]  11:35 AM
                             [**2126-11-26**]  11:34 PM
                            [**2126-11-27**]  03:15 AM
                            [**2126-11-28**]  05:31 AM
   WBC
   8.1
   6.3
   7.1
   10.0
   Hct
   25.6
   24.2
   22.9
   25.2
   25.6
   25.6
   Plt
   99
   85
   123
   149
   Cr
   0.7
   0.6
   0.6
   Glucose
   123
   108
   90
   Other labs: PT / PTT / INR:16.1/69.5/1.4, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: progressive infiltrate throughout right lung.
   Microbiology: BAL: negative for PCP. [**Name10 (NameIs) **] remain negative.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   ANEMIA
   AFIB
   Patient continues to be febrile, with gradually worsening infiltrate in
   right lung. BAL still not showing any specific pathogen. Consider RSV
   swab; if negative, assess for VATS. Continues on antibiotics. Will
   ambulate to chair. Patient is getting weaker and not eating welll on
   low bacteria diet. Will normalize diet.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   AFib converted to NSR. Maintain on oral diltiazem.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-11-29 09:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumomonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tmax 102.4 last night. Flagyl added for possible aspiration.
   Hemodynamically stable. O2 sats acceptable on supplemental O2 at 5L/min
   via nasal cannula.
   Repeat CT last night.
   24 Hour Events:
 FEVER - 102.4
F - [**2126-11-28**] 02:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-11-29**] 12:10 AM
   Cefipime - [**2126-11-29**] 12:40 AM
   Vancomycin - [**2126-11-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   azithro, morphine, bactrim, ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-29**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (98.9
   HR: 103 (84 - 120) bpm
   BP: 118/59(67) {95/49(61) - 124/63(74)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,710 mL
                                                                    499 mL
   PO:
                                                                    700 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    890 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    910 mL
   Urine:
                                                                  1,625 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     85 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Hyperresonant: , No(t) Dullness : ), (Breath
   Sounds: No(t) Clear : , Crackles : primarily at right mid zone, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   167 K/uL
   102 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   17 mg/dL
   105 mEq/L
   136 mEq/L
   23.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2126-11-25**]  08:24 PM
                             [**2126-11-26**]  03:25 AM
                             [**2126-11-26**]  11:35 AM
                             [**2126-11-26**]  11:34 PM
                            [**2126-11-27**]  03:15 AM
                            [**2126-11-28**]  05:31 AM
                            [**2126-11-29**]  05:11 AM
   WBC
   8.1
   6.3
   7.1
   10.0
   8.5
   Hct
   25.6
   24.2
   22.9
   25.2
   25.6
   25.6
   23.8
   Plt
   99
   85
   123
   149
   167
   Cr
   0.7
   0.6
   0.6
   0.5
   Glucose
   123
   108
   90
   102
   Other labs: PT / PTT / INR:15.4/36.4/1.4, Ca++:7.8 mg/dL, Mg++:1.5
   mg/dL, PO4:1.9 mg/dL
   Imaging: CT scan: dense RUL infiltrate with small amount of involvement
   in superior segment of RLL, dependent regions.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   RESPIRATORY DISTRESS
   ANEMIA
   THROMBOCYTPENIA
   Patient continues to be febrile. Antibiotics modified. Oxygenation
   unchanged from yesterday. CT scan shows progression of disease in right
   lung. Will proceed with VATS today to assess for fungal disease and for
   non-infectious, inflammatory processes such as BOOP. Patient to be
   started on anti-fungals post biopsy. Consideration also being given to
   initiating IvIG; will check SPEP.
   Hct down slightly, but not at transfusion threshold at this time.
   No further episodes of afib.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-11-30 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: RUL infiltrate
   24 Hour Events:
   - Status post VATS complicated by right lung collapse
   - Chest tube in place
   - Remained intubated overnight due to FiO2 requirements
   - Added caspofungin for antifungal coverage
   - Received 1U pRBC for hematocrit < 25
   - Received 500 cc NS x 2 for hypotension after intubation with propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-29**] 07:53 PM
   Caspofungin - [**2126-11-29**] 11:18 PM
   Cefipime - [**2126-11-30**] 01:00 AM
   Metronidazole - [**2126-11-30**] 03:51 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2126-11-30**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-30**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 89 (89 - 110) bpm
   BP: 90/52(64) {78/42(55) - 121/62(83)} mmHg
   RR: 14 (11 - 42) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,329 mL
                                                                    789 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,950 mL
                                                                    789 mL
   Blood products:
                                                                    258 mL
   Total out:
                                                                  1,540 mL
                                                                    500 mL
   Urine:
                                                                  1,540 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    789 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 670 (670 - 670) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 31
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/41/107/24/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No(t) No acute distress.
   Eyes / Conjunctiva: PERRL,
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles right upper lobe )
   Abdominal: Soft, Non-tender, Non-distended,
   Extremities: Trace edema
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Alert, Responds to: Verbal stimuli
   Labs / Radiology
   210 K/uL
   8.5 g/dL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   22 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2126-11-26**]  03:25 AM
                             [**2126-11-26**]  11:35 AM
                             [**2126-11-26**]  11:34 PM
                            [**2126-11-27**]  03:15 AM
                            [**2126-11-28**]  05:31 AM
                            [**2126-11-29**]  05:11 AM
                            [**2126-11-29**]  05:16 PM
                            [**2126-11-29**]  06:15 PM
                            [**2126-11-29**]  08:06 PM
                            [**2126-11-30**]  05:14 AM
   WBC
   6.3
   7.1
   10.0
   8.5
   7.2
   Hct
   24.2
   22.9
   25.2
   25.6
   25.6
   23.8
   24.3
   Plt
   85
   123
   149
   167
   210
   Cr
   0.7
   0.6
   0.6
   0.5
   0.6
   TCO2
   26
   28
   24
   Glucose
   123
   108
   90
   102
   105
   Other labs: PT / PTT / INR:15.4/36.4/1.4, Ca++:7.9 mg/dL, Mg++:1.6
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Hypoxic respiratory failure/status post VATS: Chest tube in place to
   suction.  The patient was on 5L NC prior to procedure.  Oxygen
   requirement thought due to pulmonary infiltrate/infection.  Pulmonary
   embolism less of a concern given treatment with lovenox.  No evidence
   to suggest cardiac ischemic at this time given negative cardiac
   enzymes.  No evidence of pulmonary edema/volume overload on exam.
   - Attempt to wean FiO2; may be able to extubate today
   - Thoracics following re: chest tube; appreciate
   # Right upper lobe infiltrate: Now status post VATS with frozen section
   indicating an infiltrative process that remains concerning for
   infection.  Will continue to cover broadly for infection in this
   immunocompromised patient.
   - Continue vancomycin, cefepime, flagyl, azithromycin, caspofungin ->
   discuss tailoring treatment with ID and Oncology
   - Awaiting VATS pathology
   - Oncology following; appreciate
   - ID following; appreciate
   # Fevers: Most likely due to malignancy versus infection.  Has been
   broadly covered for bacterial pathogens with vancomycin and cefepime;
   flagyl, azithromycin, and caspofungin started [**11-29**].  Blood, sputum,
   BAL, urine cultures all NGTD.  Other negative testing includes rapid
   respiratory test for viral pathogens, toxoplasmosis, cryptococcus,
   aspergillus, beta-glucan.
   - Continue vancomycin, cefepime, flagyl, azithromycin, caspofungin
   - Monitor outstanding cultures/assays
 coccidiodes, histoplasma,
   strongyloides
   - Check IgG levels and transfuse IVIG as needed
   # Relative hypotension: Started after initiation of propofol.
   Currently SBP 110-120s.  Unlikely due to sepsis but broadly covering as
   above.
   - Consider change from propofol to fentanyl/versed if hypotensive again
   - IVF boluses for MAP < 65, urine output < 50 cc/hr
   - Holding diltiazem for now
   - Antibiotics as above
   # Diffuse large B cell lymphoma: Admitted in his [**5-24**] cycle of MR-CHOP
   now on day 16.  Completed HD-MTX one week prior to admission and his
   counts are recovering.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in sinus.  Patient has
   history of atrial fibrillation precipitated by fevers.
   - Holding diltiazem 30 mg PO QID for now due to relative hypotension
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Comments: NPO for now
 consider initiation of tube feeds if prolonged
   extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   16 Gauge - [**2126-11-29**] 03:55 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-11-30 07:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, anemia
   Patient seen and examined with the ICU resident.  Agree with his/her
   note, including the assessment and plan.
   HPI:
   60 yo M w/DLBCL (dx [**6-25**]) s/p 6 cycles R-CHOP a/w fever and subtle RUL
   infiltrate, rapidly progressive (dense consolidation throughout R lung)
   despite broad spectrum abx.  s/p VATS wedge resection ([**11-29**]).  On 4L
   O2 pre-op, not extubated post-op given high O2 requirement.  Frozen
   section c/w infiltrative process, likely infectious.
   24 Hour Events:
   s/p 1U PRBC for Hct 25
   s/p 2x 500cc NS boluses post-op
   Started caspo per onc recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-29**] 07:53 PM
   Caspofungin - [**2126-11-29**] 11:18 PM
   Cefipime - [**2126-11-30**] 01:00 AM
   Metronidazole - [**2126-11-30**] 03:51 AM
   Azithromycin
   Bactrim ppx
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2126-11-30**] 02:30 AM
   Protonix
   Other medications:
   Diltiazem- on hold
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-30**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 89 (89 - 110) bpm
   BP: 90/52(64) {78/42(55) - 121/62(83)} mmHg
   RR: 14 (11 - 42) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,329 mL
                                                                    790 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,950 mL
                                                                    790 mL
   Blood products:
                                                                    258 mL
   Total out:
                                                                  1,540 mL
                                                                    500 mL
   Urine:
                                                                  1,540 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    789 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 670 (670 - 670) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 31
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/41/107/24/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Intubated, sedated, opens eyes to voice, denies pain
   R chest tube on -20sxn, serosanguinous drainage, no air leak
   CTAB anteriorly
   HS distant but regular
   Abd soft, NT, ND, +BS
   Ext warm, 1+ ankle edema b/l
   Labs / Radiology
   8.5 g/dL
   210 K/uL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   22 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2126-11-26**]  03:25 AM
                             [**2126-11-26**]  11:35 AM
                             [**2126-11-26**]  11:34 PM
                            [**2126-11-27**]  03:15 AM
                            [**2126-11-28**]  05:31 AM
                            [**2126-11-29**]  05:11 AM
                            [**2126-11-29**]  05:16 PM
                            [**2126-11-29**]  06:15 PM
                            [**2126-11-29**]  08:06 PM
                            [**2126-11-30**]  05:14 AM
   WBC
   6.3
   7.1
   10.0
   8.5
   7.2
   Hct
   24.2
   22.9
   25.2
   25.6
   25.6
   23.8
   24.3
   Plt
   85
   123
   149
   167
   210
   Cr
   0.7
   0.6
   0.6
   0.5
   0.6
   TCO2
   26
   28
   24
   Glucose
   123
   108
   90
   102
   105
   Other labs: PT / PTT / INR:15.4/36.4/1.4, Ca++:7.9 mg/dL, Mg++:1.6
   mg/dL, PO4:2.6 mg/dL
   Portable CXR
 sig improved, no clear ptx
   Assessment and Plan
   See also resident note for full details.
   60 yo M w/DLBCL (dx [**6-25**]) s/p 6 cycles of R-CHOP and recent
   hospitalization for pneumonia in the setting neutropenia who was
   readmitted on [**2126-11-23**] w/RUL infiltrate and fever.  Despite broad
   antibiotic coverage, pt remains febrile and has had dramatic
   progression of dense R-sided consolidation on chest CT. s/p flex bronch
   w/BAL notable only for GPC.  s/p R VATS [**11-29**] w/wedge resection.
   -R-sided infiltrate-
   ---f/u path, shows acute organizing pneumonitis w/lots of pmns, fungal
   stain pending though H&E unrevealing
   ---cont vanco, cefepime, flagyl, azithro, caspo for now per ID.
   -Hypoxemic Respiratory failure s/p VATS.
   ---no e/o ptx on CXR this am
   ---wean FiO2 for goal O2 sat >95%
   -R chest tube
   ---cont -20sxn, f/u thoracics recs
   -Fevers
   ---Cont broad spectrum abx, f/u cxs.  Check quantitative
   immunoglubulins (has required IVIG in past).
   -DLBCL
   ---day 16 s/p 6^th cycle R-CHOP: not neutopenic, plts rebounding, tf
   for Hct<25,
   ---f/u onc recs
   -PAF
   ---currently in NSR, dilt on hold given lower BP in setting of sedation
   -h/o DVT
   ---lovenox
   Addendum:
   This afternoon, pt w/HOTN, tachycardia, hypoxemia w/turning.  Changed
   from PSV to AC.  Repeat CXR w/o significant change- no large ptx.
   Bolused w/IVF and started on neo- plan to bolus more IVF and see if can
   come down on pressors.  Changed sedation from propofol to fent/versed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   16 Gauge - [**2126-11-29**] 03:55 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: Protonix
   VAP: peridex, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  30 min

2126-12-01 07:12:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 ARTERIAL LINE - START [**2126-11-30**] 08:24 AM
 BLOOD CULTURED - At [**2126-11-30**] 01:45 PM
   set one from a line
 URINE CULTURE - At [**2126-11-30**] 02:00 PM
 BLOOD CULTURED - At [**2126-11-30**] 02:35 PM
   2nd set. PICC line
   Required AC for a time yesterday but maintaining on pressure support
   currently
   Was on neosynephrine for tachycardia and low BP in setting of fever; on
   neo, HR slowed and BP raised; was able to stop neo overnight
   X-rays with gradually increasing opacities
   Copious tan secretions overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Vancomycin - [**2126-11-30**] 07:55 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Cefipime - [**2126-11-30**] 11:54 PM
   Metronidazole - [**2126-12-1**] 04:00 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2126-11-30**] 08:13 AM
   Morphine Sulfate - [**2126-11-30**] 03:49 PM
   Pantoprazole (Protonix) - [**2126-11-30**] 06:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-1**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 83 (63 - 115) bpm
   BP: 91/49(63) {78/47(58) - 135/69(92)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,286 mL
                                                                    275 mL
   PO:
             TF:
   IVF:
                                                                  4,026 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    810 mL
   Urine:
                                                                  1,900 mL
                                                                    740 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,221 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 632 (369 - 677) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   Plateau: 8 cmH2O
   Compliance: 183.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/39/75/25/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Rhonchorus)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: voice and will follow simple commands,
   Movement: purposeful, Sedated, Tone: normal
   Labs / Radiology
   299 K/uL
   9.2 g/dL
   94 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   14 mg/dL
   109 mEq/L
   139 mEq/L
   26.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-11-29**]  08:06 PM
                            [**2126-11-30**]  05:14 AM
                            [**2126-11-30**]  08:10 AM
                            [**2126-11-30**]  12:25 PM
                            [**2126-11-30**]  01:47 PM
                            [**2126-11-30**]  03:20 PM
                            [**2126-11-30**]  04:31 PM
                            [**2126-12-1**]  02:03 AM
                            [**2126-12-1**]  02:23 AM
                            [**2126-12-1**]  04:07 AM
   WBC
   7.2
   6.7
   8.9
   Hct
   24.3
   25.4
   26.2
   Plt
   [**Telephone/Fax (3) 7015**]
   Cr
   0.6
   0.5
   TCO2
   24
   28
   33
   25
   27
   24
   25
   Glucose
   105
   94
   Other labs: PT / PTT / INR:15.4/36.4/1.4, ALT / AST:[**12-5**], Alk Phos / T
   Bili:85/0.5, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL, LDH:132 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   CXR increasing right lobe infiltrate, and opacification right lung. ET
   tube in place and PICC in place
   No growth to date on cultures
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Hypoxic respiratory failure/status post VATS: Chest tube in place to
   water seal.  The patient was on 5L NC prior to procedure.  Oxygen
   requirement thought due to pulmonary infiltrate/infection.  Pulmonary
   embolism less of a concern given treatment with lovenox.  No evidence
   to suggest cardiac ischemic at this time given negative cardiac
   enzymes.  No evidence of pulmonary edema/volume overload on exam.
   - Attempt to wean FiO2
 patient does not appear ready for extubation
   - Thoracics following re: chest tube; appreciate
   # Right upper lobe infiltrate: Now status post VATS with frozen section
   indicating an infiltrative process that remains concerning for
   infection.  Will continue to cover broadly for infection in this
   immunocompromised patient.
   - Continue vancomycin, cefepime, flagyl, azithromycin, caspofungin ->
   discuss tailoring treatment with ID and Oncology
   - Awaiting VATS pathology
   - Oncology following; appreciate
   - ID following; appreciate
   # Fevers: Most likely due to malignancy versus infection.  Has been
   broadly covered for bacterial pathogens with vancomycin and cefepime;
   flagyl, azithromycin, and caspofungin started [**11-29**].  Blood, sputum,
   BAL, urine cultures all NGTD.  Other negative testing includes rapid
   respiratory test for viral pathogens, toxoplasmosis, cryptococcus,
   aspergillus, beta-glucan.
   - Continue vancomycin, cefepime, flagyl, azithromycin, caspofungin
   - Monitor outstanding cultures/assays
 coccidiodes, histoplasma,
   strongyloides
   - IgG 311, will consult ID re IVIG
   # Relative hypotension: Resolved. Started after initiation of propofol
   and resolved with change to fentanyl/versed. Patient also responded
   well to 2 L  NS [**11-30**]
   - IVF boluses for MAP < 65, urine output < 50 cc/hr
   - Antibiotics as above
   # Diffuse large B cell lymphoma: Admitted in his [**5-24**] cycle of MR-CHOP
   now on day 16.  Completed HD-MTX one week prior to admission and his
   counts are recovering.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in sinus.  Patient has
   history of atrial fibrillation precipitated by fevers.
   -Restarted diltiazem
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition: consult nutrition re: starting tube feeds
   Glycemic Control regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   16 Gauge - [**2126-11-29**] 03:55 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Prophylaxis:
   DVT: lovenox, boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, no RISBI given FiO2 60%
   Comments:
   Communication: Patient discussed on interdisciplinary rounds and
   updated wife/son
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2126-12-01 07:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo M w/DLBCL (dx [**6-25**]) s/p 6 cycles MR-CHOP a/w fever and subtle RUL
   infiltrate, rapidly progressive (dense consolidation throughout R lung)
   despite broad spectrum abx.  s/p VATS wedge resection ([**11-29**]).  On 4L
   O2 pre-op, not extubated post-op given high O2 requirement.  Frozen
   section c/w infiltrative process, likely infectious.
   24 Hour Events:
   Yesterday evening, developed HOTN, tachycardia, and hypoxemia
   w/turning.  Changed from PSV to AC.  Repeat CXR w/o significant change-
   no large ptx.  Bolused w/IVF and started on neo.  Changed sedation from
   propofol to fent/versed.  Eventually able to come off pressors and back
   on PSV ([**9-22**], FiO2 0.6)
   Spiked temp to 101- cx
   Copious, thick, tan secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Vancomycin - [**2126-11-30**] 07:55 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Cefipime - [**2126-11-30**] 11:54 PM
   Metronidazole - [**2126-12-1**] 04:00 AM
   Bactrim ppx
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Enoxaparin
   Pantoprazole 40mg IV qd
   Peridex
   Other medications:
   Diltiazem 30mg qid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-1**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 83 (63 - 115) bpm
   BP: 91/49(63) {78/47(58) - 135/69(92)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,286 mL
                                                                    275 mL
   PO:
             TF:
   IVF:
                                                                  4,026 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    810 mL
   Urine:
                                                                  1,900 mL
                                                                    740 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,221 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 632 (369 - 677) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   Plateau: 8 cmH2O
   Compliance: 183.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/39/75/25/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   Intubated, sedated, responds to tactile stimuli
   R chest tube on water seal, serosanguinous drainage, no air leak
   CTAB anteriorly
   Nls1s2, regular, tachy
   Abd soft, NT, ND, hypoactive BS
   Ext warm, 1+ pedal edema b/l
   Labs / Radiology
   9.2 g/dL
   299 K/uL
   94 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   14 mg/dL
   109 mEq/L
   139 mEq/L
   26.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-11-29**]  08:06 PM
                            [**2126-11-30**]  05:14 AM
                            [**2126-11-30**]  08:10 AM
                            [**2126-11-30**]  12:25 PM
                            [**2126-11-30**]  01:47 PM
                            [**2126-11-30**]  03:20 PM
                            [**2126-11-30**]  04:31 PM
                            [**2126-12-1**]  02:03 AM
                            [**2126-12-1**]  02:23 AM
                            [**2126-12-1**]  04:07 AM
   WBC
   7.2
   6.7
   8.9
   Hct
   24.3
   25.4
   26.2
   Plt
   [**Telephone/Fax (3) 7015**]
   Cr
   0.6
   0.5
   TCO2
   24
   28
   33
   25
   27
   24
   25
   Glucose
   105
   94
   Other labs: PT / PTT / INR:15.4/36.4/1.4, ALT / AST:[**12-5**], Alk Phos / T
   Bili:85/0.5, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL, LDH:132 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   IgG 311 (low)
   Cultures NGTD
   Galactomannan neg, Beta glucan neg
   Portable CXR
 ETT and PICC position ok.  No ptx.  Increased
   opacification on R.
   Assessment and Plan
   60 yo M w/DLBCL (dx [**6-25**]) s/p 6 cycles of MR-CHOP and recent
   hospitalization for pneumonia in the setting neutropenia who was
   readmitted on [**2126-11-23**] w/RUL infiltrate and fever.  Despite broad
   antibiotic coverage, pt remains febrile and has had dramatic
   progression of dense R-sided consolidation on chest CT. S/p flex bronch
   w/BAL notable only for GPC.  S/p R VATS [**11-29**] w/wedge resection. Prelim
   path shows acute organizing pneumonitis with multiple PMNs concerning
   for BOOP though  fungal stains remain pending (Initial H and E staining
   is unrevealing).  Has had recurrent HOTN temporally related to
   diltiazem X 2 doses received without immediate response to IVF bolus
   with neo gtt restarted though now weaning off neo again.
   -Hypoxemic Respiratory failure s/p VATS.
   Concerned for infectious process and also possible immunologic
   process/BOOP. Currently maintaining oxygenation on PS vent with peep 10
   and 50% fio2.  Will slowly wean FIO2 as tolerated maintaining sats > 93
   and pao2 > 60.
   ---Consider steroids for BOOP noting prelim path shows acute organizing
   pneumonitis w/lots of pmns,  However, given strong concern for
   infection, we are still awaiting official path and fungal stain
   results.
   ---antibx changed per ID input
current regimen includes cefepime,
   cipro, flagyl, vanco.  Capso changed to Ambizone.  Azithro d/c
d today
   as now s/p 5 day course.  Pt continues to spike fevers, though cxs
   remain unremarkable.
   ---will send sputum for culture
   -R chest tube
   ---no ptx on today
s CXR, cont water seal, f/u thoracics recs
   -Hypogammaglobulinemia
   ---d/w ID re-dosing IVIG
   -DLBCL
   ---s/p 6th cycle MR-CHOP: not neutopenic, plts rebounding, tf for
   Hct<25
   ---cont Bactrim ppx
   ---f/u onc recs
   -HOTN
   ---recurrent pressor requirement with neo restarted.  This appears to
   be related to 2 doses of diltiazem received for rate control.  Now MAPS
   remain > 60 and we are making progress weaning off neo. Will check [**Last Name (un) 45**]
   stim given prior courses of steroids to eval for adrenal insuff.  Will
   not treat empirically as is coming off pressors and does not have
   escalating requirements.
   -PAF
   ---currently in NSR, will decrease dose but cont dilt w/holding
   parameters
   -h/o DVT
   ---continue lovenox
   -FEN
   ---Nutrition consult for TF
   ICU Care
   Nutrition: as above
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   20 Gauge - [**2126-11-27**] 10:00 PM
   16 Gauge - [**2126-11-29**] 03:55 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Prophylaxis:
   DVT: on rx dose lovenox for h/o DVT
   Stress ulcer: pantoprazole
   VAP: peridex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Critically ill
   Disposition :  ICU
   Total time spent:  45

2126-12-02 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Labile blood pressure/oxygen saturations with turns
   - Received IVIG 33.5 grams for IgG level 311
   - Change caspofungin to ambisome
   - Started ciprofloxacin
   - Increased dose of cefepime
   - Started tube feeds
   - Cortisol stimulation test: baseline 9.9--> 23.8
   - Urine culture 6,000 GPCs, staph -- changed foley and resent urine
   culture --repeat UA suggestive of pyuria, culture pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Ciprofloxacin - [**2126-12-1**] 04:40 PM
   Vancomycin - [**2126-12-1**] 07:44 PM
   Ambisome - [**2126-12-1**] 10:00 PM
   Cefipime - [**2126-12-2**] 04:00 AM
   Metronidazole - [**2126-12-2**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2126-12-1**] 08:23 AM
   Midazolam (Versed) - [**2126-12-1**] 12:34 PM
   Fentanyl - [**2126-12-1**] 12:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-2**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 75 (52 - 107) bpm
   BP: 95/49(65) {75/42(54) - 143/73(93)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,561 mL
                                                                    610 mL
   PO:
             TF:
                                                                     30 mL
                                                                    151 mL
   IVF:
                                                                  3,191 mL
                                                                    359 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,480 mL
                                                                    700 mL
   Urine:
                                                                  2,370 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 512 (512 - 667) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 42
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.41/41/78.[**Numeric Identifier 244**]/27/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: No acute distress, intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Rhonchorus)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: voice and will follow simple commands,
   Movement: purposeful, Sedated, Tone: normal
   Labs / Radiology
   338 K/uL
   9.3 g/dL
   107 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.0 mEq/L
   12 mg/dL
   107 mEq/L
   138 mEq/L
   27.5 %
   9.2 K/uL
        [image002.jpg]
                            [**2126-11-30**]  12:25 PM
                            [**2126-11-30**]  01:47 PM
                            [**2126-11-30**]  03:20 PM
                            [**2126-11-30**]  04:31 PM
                            [**2126-12-1**]  02:03 AM
                            [**2126-12-1**]  02:23 AM
                            [**2126-12-1**]  04:07 AM
                            [**2126-12-1**]  04:31 PM
                            [**2126-12-2**]  04:21 AM
                            [**2126-12-2**]  04:47 AM
   WBC
   6.7
   8.9
   9.2
   Hct
   25.4
   26.2
   27.5
   Plt
   [**Telephone/Fax (3) 7026**]
   Cr
   0.5
   0.5
   TCO2
   33
   25
   27
   24
   25
   26
   27
   Glucose
   94
   107
   Other labs: PT / PTT / INR:17.3/39.1/1.6, ALT / AST:[**12-5**], Alk Phos / T
   Bili:85/0.5, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL, LDH:132 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Hypoxic respiratory failure/status post VATS: Chest tube in place to
   water seal.  The patient was on 5L NC prior to procedure.  Oxygen
   requirement thought due to pulmonary infiltrate/infection.  Pulmonary
   embolism less of a concern given treatment with lovenox.  No evidence
   to suggest cardiac ischemic at this time given negative cardiac
   enzymes.  No evidence of pulmonary edema/volume overload on exam.
   - Attempt to wean FiO2
 patient does not appear ready for extubation
   - Thoracics following re: chest tube; appreciate
   # Right upper lobe infiltrate: Now status post VATS with frozen section
   indicating an infiltrative process
 organizing pneumonia could
   indicated infection versus BOOP.  Will continue to cover broadly for
   infection in this immunocompromised patient.
   - Continue vancomycin, ciprofloxacin, flagyl, ambisome -> change
   cefepime to meropenem per ID
   - Start Solu-Medrol 125 mg Q6H for question BOOP given negative VATS
   cultures x 48 hours
   - Awaiting VATS pathology
   - Oncology following; appreciate
   - ID following; appreciate
   # Hypotension: Patient appears hypovolemic.  Partially related to
   sedation, but also suspect distributive physiology related to lung
   injury.
   - IVF boluses for MAP < 65, urine output < 50 cc/hr
   - Neosynephrine for MAP > 65 (history of tachyarrhythmia with levophed)
   - Antibiotics as above
   # Fevers: Most likely due to malignancy versus infection.  Has been
   broadly covered for bacterial pathogens with vancomycin and cefepime
   since [**11-25**].  Blood, sputum, BAL, urine cultures all NGTD.  Other
   negative testing includes rapid respiratory test for viral pathogens,
   toxoplasmosis, cryptococcus, aspergillus, beta-glucan.
   - Continue vancomycin, ciprofloxacin, flagyl, ambisome -> change
   cefepime to meropenem per ID
   - Monitor outstanding cultures/assays
 coccidiodes, histoplasma,
   strongyloides
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP now
   on day 16.  Completed HD-MTX one week prior to admission and his counts
   are recovering.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in sinus.  Patient has
   history of atrial fibrillation precipitated by fevers.
   - Restarted diltiazem
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Replete (Full) - [**2126-12-1**] 10:00 PM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   16 Gauge - [**2126-11-29**] 03:55 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-12-02 09:56:00 Physician Attending Progress Note
Chief Complaint: Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 y/o man with DLBCL s/p 6 cycles of MR-CHOP, last dose one week prior
   to admit. Presented with fever and rapidly progressive right sided
   infiltrate. s/p VATS with prelim path c/w organizing pneumonia,
   cultures final path pending. Intubated in OR, now with progressive
   hypoxemic respiratory failure.
   24 Hour Events:
   Labile O2 sat with turns
   Abx broadened - now vanc/cef/cipro/flagyl/ambisome
   Given IVIG
   Tm 100.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Ciprofloxacin - [**2126-12-1**] 04:40 PM
   Ambisome - [**2126-12-1**] 10:00 PM
   Cefipime - [**2126-12-2**] 04:00 AM
   Metronidazole - [**2126-12-2**] 04:00 AM
   Vancomycin - [**2126-12-2**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-2**] 08:45 AM
   Fentanyl - [**2126-12-2**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-2**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 113 (52 - 119) bpm
   BP: 118/63(81) {75/42(54) - 143/73(93)} mmHg
   RR: 34 (14 - 34) insp/min
   SpO2: 80%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,561 mL
                                                                  1,130 mL
   PO:
             TF:
                                                                     30 mL
                                                                    194 mL
   IVF:
                                                                  3,191 mL
                                                                    836 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,480 mL
                                                                    920 mL
   Urine:
                                                                  2,370 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (512 - 667) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI: 42
   PIP: 21 cmH2O
   SpO2: 80%
   ABG: 7.41/41/78.[**Numeric Identifier 244**]/27/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 79
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases L > R,
   Rhonchorous: b/l), R chest tube on water seal
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   338 K/uL
   107 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.0 mEq/L
   12 mg/dL
   107 mEq/L
   138 mEq/L
   27.5 %
   9.2 K/uL
        [image002.jpg]
                            [**2126-11-30**]  12:25 PM
                            [**2126-11-30**]  01:47 PM
                            [**2126-11-30**]  03:20 PM
                            [**2126-11-30**]  04:31 PM
                            [**2126-12-1**]  02:03 AM
                            [**2126-12-1**]  02:23 AM
                            [**2126-12-1**]  04:07 AM
                            [**2126-12-1**]  04:31 PM
                            [**2126-12-2**]  04:21 AM
                            [**2126-12-2**]  04:47 AM
   WBC
   6.7
   8.9
   9.2
   Hct
   25.4
   26.2
   27.5
   Plt
   [**Telephone/Fax (3) 7026**]
   Cr
   0.5
   0.5
   TCO2
   33
   25
   27
   24
   25
   26
   27
   Glucose
   94
   107
   Other labs: PT / PTT / INR:17.3/39.1/1.6, ALT / AST:[**12-5**], Alk Phos / T
   Bili:85/0.5, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL, LDH:132 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 y/o man with DLBCL s/p 6 cycles MR-CHOP p/w rapidly progressive
   right sided infiltrate and hypoxemic respiratory failure. Now s/p VATS
   with prelim path c/w organizing pneumonia
   Ddx infectious vs ILD (BOOP vs drug induced pneumonitis). Signifcant
   lung injury by P/F , CXR. Low tidal volume ventilation, will attempt
   slightly higher PEEP. Not stable to travel to CT at this time
   but will attempt if vent settings decline. Goal Pa02 55-60. Continues
   on broad spectrum anti-bacterial and anti-fungal therapy, if cultures
   remain negative we start empiric trial of high dose steroids.
   Hypotension partially related to sedation but also suspect distributive
   physiology related to lung injury. Wil check Cv02, pulse pressure
   variation today and consider fluid ressucitation. Using neo [**1-19**]
   tachyarrythmias on levophed.  Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete (Full) - [**2126-12-1**] 10:00 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-12-03 07:43:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 FEVER - 101.1
F - [**2126-12-2**] 12:00 PM
   - Started Solu-Medrol 125 mg IV Q6H
   - Changed cefepime to meropenem per ID recommendations for improved
   Nocardia coverage
   - Blood pressure dropped to systolic 60s despite maximum Neo at 18:00
   -> IVF bolus, added vasopressin, chest x-ray showed large R-sided
   PNEUMOTHORAX and chest tube changed from waterseal to suction
   - Converted to atrial fibrillation without rapid ventricular reponse ->
   titrating down Neo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Cefipime - [**2126-12-2**] 11:58 AM
   Vancomycin - [**2126-12-2**] 09:23 PM
   Metronidazole - [**2126-12-2**] 10:00 PM
   Ambisome - [**2126-12-2**] 11:00 PM
   Meropenem - [**2126-12-3**] 02:00 AM
   Ciprofloxacin - [**2126-12-3**] 06:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-12-2**] 11:45 PM
   Midazolam (Versed) - [**2126-12-2**] 11:45 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.6
C (96
   HR: 86 (43 - 121) bpm
   BP: 90/65(74) {60/43(51) - 138/78(317)} mmHg
   RR: 36 (14 - 44) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  6,285 mL
                                                                    639 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                  5,953 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    211 mL
   Urine:
                                                                  1,600 mL
                                                                    211 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                  4,295 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 533 (533 - 533) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.26/48/105/20/-6
   Ve: 9.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: sedated
   HEENT: PEERL, ET tube in mouth, JVP to jaw at 30 degrees
   Chest: bronchial breath sounds, with improved aeration at bases, right
   anterior lung fields with scant breath sounds
   Abd: soft, non-distended
   Peripheral Vascular: (Right radial pulse: 2+ (Left radial pulse: 2+),
   (Right DP pulse: 1+), (Left DP pulse: 1+)
   Skin:  no rashes, whole body anasarca
   Neurologic: Responds to: Nothing, Sedated, Movement: None, Sedated,
   Tone: Normal
   Labs / Radiology
   357 K/uL
   10.7 g/dL
   201 mg/dL
   0.9 mg/dL
   20 mEq/L
   5.4 mEq/L
   26 mg/dL
   110 mEq/L
   138 mEq/L
   32.6 %
   10.5 K/uL
        [image002.jpg]
                            [**2126-12-2**]  04:21 AM
                            [**2126-12-2**]  04:47 AM
                            [**2126-12-2**]  10:39 AM
                            [**2126-12-2**]  02:12 PM
                            [**2126-12-2**]  04:58 PM
                            [**2126-12-2**]  06:26 PM
                            [**2126-12-2**]  09:32 PM
                            [**2126-12-3**]  12:21 AM
                            [**2126-12-3**]  04:26 AM
                            [**2126-12-3**]  04:39 AM
   WBC
   9.2
   13.7
   10.5
   Hct
   27.5
   29.7
   32.6
   Plt
   338
   476
   357
   Cr
   0.5
   0.8
   0.9
   TropT
   0.04
   TCO2
   27
   25
   24
   23
   21
   21
   22
   Glucose
   107
   132
   201
   Other labs: PT / PTT / INR:18.8/39.4/1.7, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:18/37, Alk Phos / T Bili:110/0.4,
   Differential-Neuts:92.8 %, Lymph:3.6 %, Mono:2.9 %, Eos:0.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Cultures inc VATS: no growth to date
   CXR: right upper lobe infiltrate, pneumothorax improved compared to
   prior, chest tube in place, improvement compared to yesterday in left
   lower lobe aeration/consolidation. ET tube stable, but could be
   advanced 2-4 cm.
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Hypotension: Patient appears euvolemic to hypervolemic. Hypotension
   attributed toPNEUMOTHORAX, but also related to distributive physiology
   due to lung injury and sedation  Need to investigate pericardium and
   cardiac output
   - No IVFs, I/O goal even
   - Neosynephrine for MAP = 60-65 (history of tachyarrhythmia with
   levophed)
   - Chest tube to suction
   - TTE to r/o pericardial effusion
   - CvO2
   # Hypoxic respiratory failure/status post VATS/ PNEUMOTHORAX: Chest
   tube in place was initially to suction, and on water seal [**12-2**] and in
   setting of increasing PEEP for ventilation the patient developed a
   pneumothorax. Chest tube now to suction with leak. Feel respiratory
   failure due to right lobe infiltrate, no evidence cardiac ischemia and
   think PE unlikely given patient has been on lovenox.
   - Wean PEEP
   - Thoracics following re: chest tube; appreciate
   - CXR repeat today to eval progression/regression of pneumothorax
   - Cont abx, steroids as below, push path for diagnosis
   # New Renal Failure: concerned medication side-effect, but given
   hypotension, fevers needs antibiotics at this time. Consider may be RTA
   given non-gap acidosis by ABG/chem7
   - renal lytes inc eos
   - [**Hospital1 **] potassium (interaction with Solu-Medrol and ambisome)
   - check vancomycin level
   - renally dose medications
   # Right upper lobe infiltrate: Now status post VATS with frozen section
   indicating an infiltrative process
 organizing pneumonia could
   indicate infection versus BOOP.  Will continue to cover broadly for
   infection in this immunocompromised patient.
   - Continue vancomycin, ciprofloxacin, flagyl, ambisome -> change
   cefepime to meropenem per ID
   - Start Solu-Medrol 125 mg Q6H for question BOOP given negative VATS
   cultures x 48 hours
   - Awaiting VATS pathology
 call path to try to expidite diagnosis
   - Oncology following; appreciate
   - ID following; appreciate
   # Fevers: Most likely due to malignancy versus infection.  Has been
   broadly covered for bacterial pathogens with vancomycin and cefepime
   since [**11-25**].  Blood, sputum, BAL, urine cultures all NGTD.  Other
   negative testing includes rapid respiratory test for viral pathogens,
   toxoplasmosis, cryptococcus, aspergillus, beta-glucan.
   - Continue vancomycin, ciprofloxacin, flagyl, ambisome,  meropenem per
   ID
   - Monitor outstanding cultures/assays
 coccidiodes, histoplasma,
   strongyloides
   - Awaiting VATS pathology
 call path to try to expidite diagnosis
   - CIS > 101.5F
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in atrial fibrillation due
   to nodal blocking by neo.  Patient has history of atrial fibrillation
   precipitated by fevers.
   - off diltaizem given hypotension
   - only treat if impacts hemodynamics
   - try to wean neo
    # DVT: Diagnosed 11/[**2125**].
   -Hold lovenox given anticipation of thoracic surgical interventions
   given PTX
   ICU Care
   Nutrition: hold tube feeds given high residuals, so increasing bowel
   regimen
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:[**Street Address(2) 7045**] central line today as patient with inadequate access.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition:ICU

2126-12-03 09:54:00 Physician Attending Progress Note
Chief Complaint: Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with DLBCL s/p 6 cycles of MR-CHOP who presents with
   fever, rapidly progressive right sided consolidation despite broad
   spectrum anti-biotics. Now s/p VATS with prelim path showing organizing
   pneumonia. Continues on borad empiric antibiotics as well as ambisome,
   started on high dose steroids yesterday.
   24 Hour Events:
   Febrile overnight
   Solumedrol 125mg q6hrs started yesterday
   Cefepime changed to meropenem - regimen is
   vanc/[**Last Name (un) 430**]/flagyl/ambisome/cipro
   Hypotension on max neop yesterday - chest tube on water seal.
   Hypotension resolved with
   tube to suction plus repositioning (associated with new air leak).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2126-11-30**] 03:49 PM
   Caspofungin - [**2126-11-30**] 09:30 PM
   Cefipime - [**2126-12-2**] 11:58 AM
   Vancomycin - [**2126-12-2**] 09:23 PM
   Metronidazole - [**2126-12-2**] 10:00 PM
   Ambisome - [**2126-12-2**] 11:00 PM
   Ciprofloxacin - [**2126-12-3**] 06:00 AM
   Meropenem - [**2126-12-3**] 08:19 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-12-2**] 11:45 PM
   Midazolam (Versed) - [**2126-12-2**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-3**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 84 (43 - 121) bpm
   BP: 118/69(88) {60/43(51) - 138/78(317)} mmHg
   RR: 20 (14 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
           Total In:
                                                                  6,285 mL
                                                                  1,043 mL
   PO:
           TF:
                                                                    173 mL
   IVF:
                                                                  5,953 mL
                                                                    817 mL
   Blood products:
   226 mL
   Total out:
                                                                  1,990 mL
                                                                    261 mL
   Urine:
                                                                  1,600 mL
                                                                    261 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                  4,295 mL
                                                                    787 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 98%
   ABG: 7.26/48/105/20/-6
   Ve: 9.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), JVP elevated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   357 K/uL
   201 mg/dL
   0.9 mg/dL
   20 mEq/L
   5.4 mEq/L
   26 mg/dL
   110 mEq/L
   138 mEq/L
   32.6 %
   10.5 K/uL
        [image002.jpg]
                            [**2126-12-2**]  04:21 AM
                            [**2126-12-2**]  04:47 AM
                            [**2126-12-2**]  10:39 AM
                            [**2126-12-2**]  02:12 PM
                            [**2126-12-2**]  04:58 PM
                            [**2126-12-2**]  06:26 PM
                            [**2126-12-2**]  09:32 PM
                            [**2126-12-3**]  12:21 AM
                            [**2126-12-3**]  04:26 AM
                            [**2126-12-3**]  04:39 AM
   WBC
   9.2
   13.7
   10.5
   Hct
   27.5
   29.7
   32.6
   Plt
   338
   476
   357
   Cr
   0.5
   0.8
   0.9
   TropT
   0.04
   TCO2
   27
   25
   24
   23
   21
   21
   22
   Glucose
   107
   132
   201
   Other labs: PT / PTT / INR:18.8/39.4/1.7, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:18/37, Alk Phos / T Bili:110/0.4,
   Differential-Neuts:92.8 %, Lymph:3.6 %, Mono:2.9 %, Eos:0.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   60 year old man with DLBCL,  hypoxemic respiratory failure, fevers and
   now apparent tension pneumothorax. Persistent air leak after
   repositioning of chest tube and improving
   hemodynamics. Will leave chest tube to suction, appreciate thoracis
   assistance. Will attempt to minimize airway pressure (though may be
   limited by oxygentaion). Ideally would like PEEP
   no higher than 5. He appears clinicaly to be volume resuscitated. We
   will check Cv02 and TTE echo today to complete the w/u of hypotension.
   On neo [**1-19**] to tachyarrythmia on
   levophed and will titrate for MAP 60-65. Started on solumedrol
   yesterday + broad empiric abx and antifungals, still awaiting final
   path. Cr is slowly climbing despite fluid resuscitation yesterday,
   concern for med effect but will just monitor for now given need for
   antimicrobials. [**Hospital1 **] lytes.  Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Held for high for high residulas. Increase bowel regimen
   today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Comments: Central line today as inadequate access
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-12-05 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Weaned levophed despite diuresis
   - Diuresed one liter
   - Changed ambisone to voriconazole due to worsening renal failure
   - Held afternoon vancomycin
   - CT chest yesterday
 very small loculated right posteromedial
   pneumothorax, mild improvement in parenchemal disease
   - Changed solumedrol to prednisone 60 mg this morning
   - Started naloxone for TF residuals
   - Increased free water flushes PO given hypernatremia
   - Tightened insulin sliding scale
   - Laboratories show new pancytopenia this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-12-2**] 11:58 AM
   Ambisome - [**2126-12-3**] 10:00 PM
   Vancomycin - [**2126-12-4**] 10:30 AM
   Voriconazole - [**2126-12-5**] 12:00 AM
   Meropenem - [**2126-12-5**] 02:30 AM
   Metronidazole - [**2126-12-5**] 03:52 AM
   Ciprofloxacin - [**2126-12-5**] 05:29 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-12-4**] 05:23 PM
   Pantoprazole (Protonix) - [**2126-12-4**] 05:24 PM
   Enoxaparin (Lovenox) - [**2126-12-4**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-5**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.4
   HR: 51 (51 - 83) bpm
   BP: 119/56(76) {109/51(70) - 127/57(80)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
    CVP: 8 (-2 - 9)mmHg
   Total In:
                                                                  2,669 mL
                                                                    954 mL
   PO:
   TF:
                                                                    135 mL
                                                                     85 mL
   IVF:
                                                                  2,234 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                    590 mL
   Urine:
                                                                  3,015 mL
                                                                    490 mL
   NG:
                                                                    660 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,006 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/41/86.[**Numeric Identifier 96**]/24/-1
   Ve: 10.7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : at bases, Bronchial: right anterior,
   Diminished: throughout), chest tube to suction without leak
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, No(t)
   Distended
   Extremities: Gross anasarca
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm: mild redness on back
   Neurologic: Sedated, Tone: Normal
   Labs / Radiology
   143 K/uL
   8.4 g/dL
   152 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   44 mg/dL
   115 mEq/L
   147 mEq/L
   24.9 %
   2.1 K/uL
        [image002.jpg]
                            [**2126-12-3**]  04:39 AM
                            [**2126-12-3**]  11:10 AM
                            [**2126-12-3**]  11:13 AM
                            [**2126-12-3**]  05:07 PM
                            [**2126-12-4**]  03:20 AM
                            [**2126-12-4**]  03:25 AM
                            [**2126-12-4**]  06:12 PM
                            [**2126-12-4**]  06:45 PM
                            [**2126-12-5**]  03:27 AM
                            [**2126-12-5**]  06:31 AM
   WBC
   6.2
   2.4
   2.1
   Hct
   25.8
   23.9
   24.9
   Plt
   [**Telephone/Fax (3) 7079**]
   Cr
   1.0
   1.1
   1.1
   1.0
   TCO2
   22
   22
   25
   26
   24
   Glucose
   193
   157
   174
   152
   Other labs: PT / PTT / INR:19.7/40.7/1.8, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:18/37, Alk Phos / T Bili:110/0.4,
   Differential-Neuts:91.6 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:182 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Right upper lobe infiltrate: CT chest yesterday showed improvement in
   infiltrate.  VATS pathology unrevealing for etiology, however, cultures
   negative for fungus.  Patient completed a ten-day course of vancomycin
   and will discontinue
 will otherwise continue to cover broadly for
   infection in this immunocompromised patient.
   - Discontinue vancomycin and voriconazole
   - Continue meropenem, ciprofloxacin, flagyl for now
   - Continue prednisone 60 mg x 3 days, then taper
   - ID following; appreciate
   - Oncology following; appreciate
   # Hypoxic respiratory failure/pneumothorax: CT chest yesterday showed
   very small pneumothorax, improvement in right infiltrate, left lower
   lobe collapse.  Chest tube now to suction without leak.  Feel
   respiratory failure due to right lobe infiltrate versus volume.  Left
   lower lobe collapse likely due to mucus plugging.  No evidence of
   cardiac ischemia and think pulmonary embolus unlikely given patient has
   been on therapeutic lovenox.
   - Continue ventilator at current settings
   - Continue chest tube to suction
   - Thoracics following re: chest tube; appreciate
   - Goal negative 500cc-1L today
   - Continue antibiotics and steroids as above
   # Acute renal failure: Likely medication effect and ambisome most
   likely culprit.  Stable/decreased despite diuresis.
   - Renally dose medications
   # Pancytopenia: Likely medication effect given timing.  Unlikely due to
   marrow suppression from infection with cultures all negative.  Low
   probability of heparin-induced thrombocytopenia but will evaluate.
   - Discontinue vancomycin and voriconazole as above
   - Send HIT antibodies
   - Monitor for neutropenia
   - Monitor hematocrit and transfuse < 25 or bleeding
   - Monitor platelets and transfuse < 10 or bleeding
   # Hypotension: Improved despite diuresis.  Also likely component of
   sedation and pneumothorax.
   - Wean levophed and sedation as able
   - Chest tube to suction
   # Fevers: Afebrile x 48 hours, however, on steroids.  Has been broadly
   covered for bacterial pathogens and VATS negative for fungus.  VATS,
   blood, sputum, BAL, urine cultures all NGTD.  Other negative testing
   includes rapid respiratory test for viral pathogens, toxoplasmosis,
   cryptococcus, aspergillus, beta-glucan, coccidiodes, histoplasma,
   strongyloides.
   - Discontinue vancomycin and voriconazole
   - Continue meropenem, ciprofloxacin, flagyl for now
   - CIS > 100.5
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in sinus.  Patient has
   history of atrial fibrillation precipitated by fevers.
   - Off diltiazem given hypotension
   - Only treat if impacts hemodynamics
   - Wean levophed
   - Anticoagulated with lovenox
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2126-12-5**] 02:32 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-12-05 08:58:00 Physician Attending Progress Note
Chief Complaint: Fever, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 60 year man with PMH
   DLBCL, admitted with progressive respiratory failure and dense right
   sided consolidation. s/p VATS with path showing only organizing
   pneumonia. Now on borad spectrum antimicrobials as well as high dose
   steroids.
   24 Hour Events:
   Ambisome changed to voriconazole
   Solumedrol changed to prednisone today
   ABx re-dosed for renal failure
   CT with small residula right pneumothorax and improving R consolidation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-12-2**] 11:58 AM
   Ambisome - [**2126-12-3**] 10:00 PM
   Voriconazole - [**2126-12-5**] 12:00 AM
   Metronidazole - [**2126-12-5**] 03:52 AM
   Ciprofloxacin - [**2126-12-5**] 05:29 AM
   Meropenem - [**2126-12-5**] 07:30 AM
   Vancomycin - [**2126-12-5**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-12-4**] 05:23 PM
   Pantoprazole (Protonix) - [**2126-12-4**] 05:24 PM
   Enoxaparin (Lovenox) - [**2126-12-4**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-5**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.5
C (95.9
   HR: 97 (51 - 97) bpm
   BP: 119/56(76) {109/51(70) - 119/56(76)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 9 (-2 - 9)mmHg
   Total In:
                                                                  2,669 mL
                                                                  1,557 mL
   PO:
   TF:
                                                                    135 mL
                                                                    108 mL
   IVF:
                                                                  2,234 mL
                                                                  1,209 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                    790 mL
   Urine:
                                                                  3,015 mL
                                                                    690 mL
   NG:
                                                                    660 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,006 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/41/86.[**Numeric Identifier 96**]/24/-1
   Ve: 11 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Diminished: R > L base)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Not overbreathing the vent
   Labs / Radiology
   8.4 g/dL
   143 K/uL
   152 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   44 mg/dL
   115 mEq/L
   147 mEq/L
   24.9 %
   2.1 K/uL
        [image002.jpg]
                            [**2126-12-3**]  04:39 AM
                            [**2126-12-3**]  11:10 AM
                            [**2126-12-3**]  11:13 AM
                            [**2126-12-3**]  05:07 PM
                            [**2126-12-4**]  03:20 AM
                            [**2126-12-4**]  03:25 AM
                            [**2126-12-4**]  06:12 PM
                            [**2126-12-4**]  06:45 PM
                            [**2126-12-5**]  03:27 AM
                            [**2126-12-5**]  06:31 AM
   WBC
   6.2
   2.4
   2.1
   Hct
   25.8
   23.9
   24.9
   Plt
   [**Telephone/Fax (3) 7079**]
   Cr
   1.0
   1.1
   1.1
   1.0
   TCO2
   22
   22
   25
   26
   24
   Glucose
   193
   157
   174
   152
   Other labs: PT / PTT / INR:19.7/40.7/1.8, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:18/37, Alk Phos / T Bili:110/0.4,
   Differential-Neuts:91.6 %, Lymph:5.2 %, Mono:2.3 %, Eos:0.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:182 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: Chest Ct with LLL collapse
   Microbiology: Fungal stains finalized negative from VATS
   Assessment and Plan
   60 year old man with DLBCL s/p 6 cycles MR-CHOP who presents with
   riespiratory failure and dense right sided consolidation now improving.
   Course c/b by persisent
   pneumothorax s/p VATS. Now coming off pressors despite diuresis. Right
   sided infiltrate improving on borad spectrum antimicrobials and
   steroids. Has completed 10 days
   of vancomycin so agree with ID that we can DC today, particulary in
   lightof falling plts. No evidence of fungal infection, will DC
   voriconazole as well. Oxygenation is still
   an issue despite improving CT. Additional diuresis today. Still on AC
   with low Vt. Maintain chest tube to suction in light of residual
   pneumothorax on CT and strive for
   low airway pressures. LLL collapse on CT but no endobronchial lesion
   noted on bronch [**2126-11-26**] -  likely related to mucous plugging, small
   left sided effusion.
   Wean sedation today. Renal function is stable - medications re-dosed.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2126-12-5**] 02:32 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-12-06 07:59:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Discontinued vancomycin and voriconazole
   - Sent HIT antibody (not pending yet)
   - Hypernatremic -> unable to obtain fluid goal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2126-12-3**] 10:00 PM
   Voriconazole - [**2126-12-5**] 12:00 AM
   Vancomycin - [**2126-12-5**] 08:00 AM
   Ciprofloxacin - [**2126-12-5**] 06:00 PM
   Meropenem - [**2126-12-6**] 02:00 AM
   Metronidazole - [**2126-12-6**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-5**] 03:11 PM
   Fentanyl - [**2126-12-5**] 03:11 PM
   Furosemide (Lasix) - [**2126-12-5**] 06:00 PM
   Insulin - Regular - [**2126-12-5**] 06:00 PM
   Enoxaparin (Lovenox) - [**2126-12-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-6**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 75 (69 - 121) bpm
   BP: 97/48(65) {90/48(63) - 106/58(75)} mmHg
   RR: 25 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (-1 - 9)mmHg
   Total In:
                                                                  3,890 mL
                                                                  1,654 mL
   PO:
   TF:
                                                                    831 mL
                                                                    591 mL
   IVF:
                                                                  2,470 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  3,970 mL
                                                                    435 mL
   Urine:
                                                                  3,800 mL
                                                                    385 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -80 mL
                                                                  1,219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 10 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/44/82
   Ve: 10.6 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: , Diminished: RUL)
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   193 K/uL
   9.4 g/dL
   165 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   56 mg/dL
   115 mEq/L
   149 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2126-12-3**]  05:07 PM
                            [**2126-12-4**]  03:20 AM
                            [**2126-12-4**]  03:25 AM
                            [**2126-12-4**]  06:12 PM
                            [**2126-12-4**]  06:45 PM
                            [**2126-12-5**]  03:27 AM
                            [**2126-12-5**]  06:31 AM
                            [**2126-12-5**]  05:26 PM
                            [**2126-12-6**]  03:19 AM
                            [**2126-12-6**]  03:35 AM
   WBC
   6.2
   2.4
   2.1
   7.1
   Hct
   25.8
   23.9
   24.9
   27.9
   Plt
   [**Telephone/Fax (3) 7101**]93
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   25
   26
   24
   30
   Glucose
   157
   174
   152
   158
   165
   Other labs: PT / PTT / INR:19.3/36.5/1.8, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:93.8 %, Lymph:2.5 %, Mono:3.5 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   CXR: stable RUL infiltrate and LLL atelectasis vs effusion (
   atelectasis per recent CT)
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension.  Transferred to MICU Green for VATS due
   to worsening right lobe diffuse infiltrate.
   # Right upper lobe infiltrate: CT chest yesterday showed improvement in
   infiltrate.  VATS pathology unrevealing for etiology, however, cultures
   negative for fungus.  Patient completed a ten-day course of vancomycin
   and will discontinue
 will otherwise continue to cover broadly for
   infection in this immunocompromised patient.   Patient s/p 10 day
   vancomycin course, vancomycin stopped [**12-5**]. Voriconazole was
   discontinued due to negative fungal stain and no fungal culture growth.
   - Discontinue cipro/flagyl today
   - Continue meropenem for now
   - Continue prednisone 60 mg x 3 days, then taper
   - ID following; appreciate
   - Oncology following; appreciate
   # Hypoxic respiratory failure/pneumothorax: CT chest yesterday showed
   very small pneumothorax, improvement in right infiltrate, left lower
   lobe collapse.  Chest tube now to suction without leak.  Feel
   respiratory failure due to right lobe infiltrate versus volume.  Left
   lower lobe collapse likely due to mucus plugging.  No evidence of
   cardiac ischemia and think pulmonary embolus unlikely given patient has
   been on therapeutic lovenox.
   - Continue ventilator at current settings
 improving P/F
   - Stop VERSED, if agitation start propofol in anticipation of improving
   pulm function and attempts to wean from vent
   - Continue chest tube to WATER SEAL, CXR 10:30AM
   - Thoracics following re: chest tube; appreciate
   - Goal negative 500cc-1L today on lasix drip
   - Continue antibiotics and steroids as above
   #  Hypernatremia: in setting of intermittent tube feeds due to high
   residuals, and diuresis
   - continue diuresis
   - free water boluses, will tolerate slightly higher residuals (>150-175
   ml) if do not progressively increase
   - [**Hospital1 **] lytes
   # Acute renal failure: Likely medication effect and ambisome most
   likely culprit.  Stable/decreased despite diuresis.
   - Renally dose medications
   - Off ambisome
   # Pancytopenia: Likely medication effect given timing, recovered in
   setting of stopping ambisome.  Unlikely due to marrow suppression from
   infection with cultures all negative.  Low probability of
   heparin-induced thrombocytopenia but will evaluate.
   - Send HIT antibodies
   - Monitor for neutropenia
   - Monitor hematocrit and transfuse < 25 or bleeding
   - Monitor platelets and transfuse < 10 or bleeding
   # Hypotension: Improved despite diuresis.  Also likely component of
   sedation and pneumothorax.
   - Wean levophed and sedation as able
   - Chest tube to water seal, following CXRs
   # Fevers: Afebrile x 48 hours, however, on steroids.  Has been broadly
   covered for bacterial pathogens and VATS negative for fungus.  VATS,
   blood, sputum, BAL, urine cultures all NGTD.  Other negative testing
   includes rapid respiratory test for viral pathogens, toxoplasmosis,
   cryptococcus, aspergillus, beta-glucan, coccidiodes, histoplasma,
   strongyloides. Vancomycin, voriconazole [**12-5**].
   - Discontinue ciprofloxacin, flagyl
   - Continue meropenem
   - CIS > 100.5
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.
   - Not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Paroxysmal atrial fibrillation: Currently in sinus.  Patient has
   history of atrial fibrillation precipitated by fevers.
   - Off diltiazem given hypotension
   - Only treat if impacts hemodynamics
   - Wean levophed
   - Anticoagulated with lovenox
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2126-12-6**] 02:15 AM 75 mL/hour
   Glycemic Control:  Comments: insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication:  wife
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2126-12-06 09:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with DLBCL who presents with hypoxemic respiratory
   failure and rapidly progressive, dense Right sided pulmonary
   infiltrate. Please see previous notes for details.
   24 Hour Events:
   Vanc + Vori DC'd yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2126-12-3**] 10:00 PM
   Voriconazole - [**2126-12-5**] 12:00 AM
   Vancomycin - [**2126-12-5**] 08:00 AM
   Ciprofloxacin - [**2126-12-5**] 06:00 PM
   Metronidazole - [**2126-12-6**] 04:00 AM
   Meropenem - [**2126-12-6**] 08:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-5**] 03:11 PM
   Fentanyl - [**2126-12-5**] 03:11 PM
   Furosemide (Lasix) - [**2126-12-5**] 06:00 PM
   Insulin - Regular - [**2126-12-5**] 06:00 PM
   Enoxaparin (Lovenox) - [**2126-12-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-6**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 86 (69 - 121) bpm
   BP: 113/59(78) {90/48(63) - 113/59(78)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 5 (-1 - 9)mmHg
   Total In:
                                                                  3,890 mL
                                                                  1,967 mL
   PO:
   TF:
                                                                    831 mL
                                                                    635 mL
   IVF:
                                                                  2,470 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  3,970 mL
                                                                    655 mL
   Urine:
                                                                  3,800 mL
                                                                    605 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -80 mL
                                                                  1,312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 10 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/44/81.[**Numeric Identifier 253**]/29/3
   Ve: 10.6 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Absent : Left base), No leak from
   chest tube
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   193 K/uL
   165 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   56 mg/dL
   115 mEq/L
   149 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2126-12-3**]  05:07 PM
                            [**2126-12-4**]  03:20 AM
                            [**2126-12-4**]  03:25 AM
                            [**2126-12-4**]  06:12 PM
                            [**2126-12-4**]  06:45 PM
                            [**2126-12-5**]  03:27 AM
                            [**2126-12-5**]  06:31 AM
                            [**2126-12-5**]  05:26 PM
                            [**2126-12-6**]  03:19 AM
                            [**2126-12-6**]  03:35 AM
   WBC
   6.2
   2.4
   2.1
   7.1
   Hct
   25.8
   23.9
   24.9
   27.9
   Plt
   [**Telephone/Fax (3) 7101**]93
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   25
   26
   24
   30
   Glucose
   157
   174
   152
   158
   165
   Other labs: PT / PTT / INR:19.3/36.5/1.8, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:93.8 %, Lymph:2.5 %, Mono:3.5 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   60 year old man with history as above. Plan as per resident note.
   Briefly, hypoxemic respiratory failure [**1-19**] infectious vs. inflamatory
   right sided infiltrate.
   Will DC cipro flagyl today as he has had > 10 days of broad spectrum
   antibiotics.  Prednisone to continue at 60. Continue gentle diuresis
   today. Minimize
   sedation today and would favor use of propofol for sedation if needed.
   ICU Care
   Nutrition:
   Comments: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2126-12-07 08:51:00 Physician Attending Progress Note
Chief Complaint: Fever, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   team for key portions of the services provided.  I agree with his / her
   note above, including assessment and plan.
   HPI:
   60 year old man with PMH of DLBCL, s/p 6 cycles of MR-CHOP admitted to
   the MICU with hypoxemic respiratory failure [**1-19**] dense right sided
   consolidation. Cultures all negative and now s/p VATS biopsy showing
   just organizing pneumonia. Completing course of broad spectrum abx as
   well as empiric steroids. Course c/b by tension pneumothorax post-VATS
   which responded to chest tube reposition as well as recurrent afib with
   RVR while on levophed.
   24 Hour Events:
   Unstable afib with RVR, s/p cardioversion o/n, coverted from Levopeh
   back to neosynephrine for BP support
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2126-12-5**] 12:00 AM
   Vancomycin - [**2126-12-5**] 08:00 AM
   Ciprofloxacin - [**2126-12-5**] 06:00 PM
   Metronidazole - [**2126-12-6**] 04:00 AM
   Meropenem - [**2126-12-7**] 02:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Diltiazem - 15 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 45.2 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2126-12-7**] 12:50 AM
   Diltiazem - [**2126-12-7**] 01:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-7**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 127 (58 - 147) bpm
   BP: 131/74(94) {73/47(61) - 138/82(103)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 5 (-4 - 275)mmHg
   Total In:
                                                                  4,221 mL
                                                                  2,244 mL
   PO:
   TF:
                                                                  1,665 mL
                                                                    498 mL
   IVF:
                                                                  1,306 mL
                                                                  1,656 mL
   Blood products:
   Total out:
                                                                  3,865 mL
                                                                  1,740 mL
   Urine:
                                                                  3,785 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    356 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/51/118/33/8
   Ve: 9.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Gen: chronically ill appearing
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   , Diminished: b/l)
   Abdominal: Soft, Non-tender, scrotal edema
   Extremities: Right: 2+, Left: 2+
   Skin:  warm
   Neurologic: respods minimally to voice and tactile stim
   Labs / Radiology
   10.2 g/dL
   350 K/uL
   137 mg/dL
   159.0
   33 mEq/L
   4.7 mEq/L
   53 mg/dL
   112 mEq/L
   148 mEq/L
   29.5 %
   17.8 K/uL
        [image002.jpg]
                            [**2126-12-5**]  06:31 AM
                            [**2126-12-5**]  05:26 PM
                            [**2126-12-6**]  03:19 AM
                            [**2126-12-6**]  03:35 AM
                            [**2126-12-6**]  01:50 PM
                            [**2126-12-7**]  12:22 AM
                            [**2126-12-7**]  12:33 AM
                            [**2126-12-7**]  04:20 AM
                            [**2126-12-7**]  04:34 AM
                            [**2126-12-7**]  06:00 AM
   WBC
   2.1
   7.1
   17.8
   Hct
   24.9
   27.9
   29.5
   Plt
   143
   193
   350
   Cr
   1.0
   1.0
   1.0
   1.0
   0.8
   159.0
   TropT
   0.03
   TCO2
   30
   35
   35
   Glucose
   158
   165
   153
   156
   137
   Other labs: PT / PTT / INR:17.8/34.9/1.6, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:93.8 %, Lymph:2.5 %, Mono:3.5 %, Eos:0.1 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   60 year man with B cell lymphoma on RCHOP with severe PNA s/p VATS c/b
   PTX with persistent  hypoxemic respiratory failure.
   1. Resp Failure: in setting of severe PNA and now s/p VATS with PTX -
   Oxygenation is stable, but have not been able to make sig progress with
   PTX and sedation and AFib with RVR confounding picture. Chest tube to
   water seal today.
   2. Afib: went back into afib overnight with RVR and hypotension and s/p
   cardioversion which briefly slowed but then recurred so has been IV
   Amio loaded and is now on a continuous drip.
   3. Hemodynamics: Would favor low dose neo with goal MAP 60-  CVP
   running [**2-21**] with good urine output and minimal  pressors (on sedation).
   Would aim even to -500 today.
   4. Leukocytosis: dramatic rise today, but has not been febrile. Will
   pan culture. Appreciate ID follow up.
   Remaining issues as per HOusestaff notes.
   ICU Care
   Nutrition: tube feeds on
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  with family today at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-12-08 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with PMH DLBCL p/w respiratory failure [**1-19**] densr right
   sided consolidation of unclear etiology. Please see previous notes for
   details.
   24 Hour Events:
   Started on vanc for possible LLL infiltrate, GPC in sputum (now vanc ,
   [**Last Name (un) 430**])
   Re bloused with Amio
   Noted to have abd pain on exam this AM
 plan for abdominal CT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-12-5**] 06:00 PM
   Metronidazole - [**2126-12-6**] 04:00 AM
   Meropenem - [**2126-12-8**] 08:31 AM
   Vancomycin - [**2126-12-8**] 08:32 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Propofol - 45 mcg/Kg/min
   Phenylephrine - 1.6 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-8**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.3
C (95.6
   HR: 57 (46 - 153) bpm
   BP: 85/41(56) {78/41(56) - 137/77(95)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 3 (3 - 17)mmHg
   Total In:
                                                                  6,199 mL
                                                                  2,393 mL
   PO:
   TF:
                                                                  1,799 mL
                                                                    698 mL
   IVF:
                                                                  3,650 mL
                                                                  1,315 mL
   Blood products:
   Total out:
                                                                  7,200 mL
                                                                  1,780 mL
   Urine:
                                                                  6,250 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,001 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 93%
   ABG: 7.40/55/85.[**Numeric Identifier 128**]/34/6
   Ve: 11.9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: chronically ill appearing
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest:  (Breath Sounds: Clear : , Diminished: b/l)
   Abdominal: Soft, mild tenderness to deep palp in LUQ and LLQ, scrotal
   edema
   Extremities: Right: 2+, Left: 3+ edema
   Skin:  warm
   Neurologic:awake,  responds minimally to voice and tactile stim
   Labs / Radiology
   10.8 g/dL
   254 K/uL
   106 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   140 mEq/L
   31.5 %
   15.8 K/uL
        [image002.jpg]
                            [**2126-12-7**]  12:33 AM
                            [**2126-12-7**]  04:20 AM
                            [**2126-12-7**]  04:34 AM
                            [**2126-12-7**]  06:00 AM
                            [**2126-12-7**]  02:40 PM
                            [**2126-12-7**]  02:41 PM
                            [**2126-12-8**]  12:00 AM
                            [**2126-12-8**]  04:59 AM
                            [**2126-12-8**]  05:15 AM
                            [**2126-12-8**]  09:53 AM
   WBC
   17.8
   17.0
   15.8
   Hct
   29.5
   33.3
   31.5
   Plt
   350
   323
   254
   Cr
   0.8
   159.0
   0.9
   0.7
   TCO2
   35
   35
   35
   39
   35
   Glucose
   137
   140
   105
   106
   Other labs: PT / PTT / INR:15.8/33.6/1.4, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:86.0 %, Band:4.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:8.9
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - Leftdised effusion
   Assessment and Plan
   60 year man with B cell lymphoma on RCHOP with severe PNA s/p VATS c/b
   PTX with persistent  hypoxemic respiratory failure.
   1. Resp Failure: in setting of severe PNA and now s/p VATS with PTX -
   Oxygenation is stable, but have made slow progress with PTX and
   sedation and AFib with RVR confounding picture. Chest tube on water
   seal but still small PTX- discuss with Thoracics OK for ongoing water
   seal versus suction.
   2. Afib: in and out of RVR, continues on AMio with reasonable rate
   control now
   3. Hemodynamics: Tolerated 1 L negative yesterday and in fact we are
   weaning Neo. Would aim even to -500 today.
   4. Leukocytosis: dramatic rise yesterday, stable today and low grade
   fevers, Pan Cx without sig findings
 C diff neg x 2, urine neg, GPC in
   sputum. Plan for Abd CT in light of pain as possible occult source
   especially as he has been on high dose steroids. Appreciate ID follow
   up.
   Remaining issues as per HOusestaff notes.
   ICU Care
   Nutrition:
   Comments: tube feeds at goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Family updated at bedside yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-12-09 08:36:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Started amiodarone PO after IV load
   - Discontinued levophed
   - Developed atrial fibrillation with rapid ventricular rate converting
   to normal sinus rhythm with IV/PO diltiazem
   - CT abdomen yesterday to evaluate abdominal tenderness showed
   cholelithiasis and bilateral nephrolithiasis but no evidence of bowel
   perforation or extravasation of contrast
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-12-9**] 08:00 AM
   Vancomycin - [**2126-12-9**] 08:16 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-12-8**] 10:42 AM
   Haloperidol (Haldol) - [**2126-12-8**] 12:19 PM
   Diltiazem - [**2126-12-8**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-9**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 101 (52 - 150) bpm
   BP: 135/69(91) {75/41(56) - 146/81(100)} mmHg
   RR: 25 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (-5 - 19)mmHg
   Total In:
                                                                  5,260 mL
                                                                  1,689 mL
   PO:
   TF:
                                                                  1,145 mL
                                                                    641 mL
   IVF:
                                                                  2,665 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  1,365 mL
   Urine:
                                                                  3,800 mL
                                                                    875 mL
   NG:
   Stool:
                                                                    350 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,020 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 847 (847 - 847) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/53/108/35/12
   Ve: 10.8 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), limited anterior exam
   Extremities: DP: Right: Present; Left: Present; Radial: diminished but
   present bilat
   Skin:  No rashes/petichiae in limited exam
   Neurologic: Attentive, Responds to: Verbal stimuli (intermittently),
   Movement: moving head only during my visits this AM, Tone: flaccid
   Labs / Radiology
   101 K/uL
   9.2 g/dL
   103 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.6 mEq/L
   33 mg/dL
   101 mEq/L
   139 mEq/L
   26.7 %
   4.9 K/uL
        [image002.jpg]
                            [**2126-12-7**]  06:00 AM
                            [**2126-12-7**]  02:40 PM
                            [**2126-12-7**]  02:41 PM
                            [**2126-12-8**]  12:00 AM
                            [**2126-12-8**]  04:59 AM
                            [**2126-12-8**]  05:15 AM
                            [**2126-12-8**]  09:53 AM
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
   WBC
   17.0
   15.8
   4.9
   Hct
   33.3
   31.5
   26.7
   Plt
   [**Telephone/Fax (3) 7133**]
   Cr
   159.0
   0.9
   0.7
   0.5
   TCO2
   35
   39
   35
   36
   40
   Glucose
   140
   105
   106
   103
   Other labs: PT / PTT / INR:14.3/33.4/1.2, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma (s/p six
   cycles of MR-CHOP) who presented on [**2126-11-23**] with fevers and new right
   upper lobe infiltrate - > transferred to the [**Hospital Unit Name 44**] for worsening oxygen
   requirements and hypotension, then to MICU Green for VATS due to
   worsening right lobe diffuse infiltrate.
   # Hypoxic respiratory failure/right upper lobe infiltrate/pneumothorax:
   Improving.  History of respiratory issues here has been:
    * VATS [**11-29**] with pathology simply showing organizing
   pneumonitis/pneumonia
 chest tube remains in place.
   * Steroids started [**12-2**], with right upper lobe infiltrate improving
   generally since then.
   * Meropenem started [**12-2**] to complete a 14 day course; was on numerous
   other antibiotics before this
   * Left lower lobe infiltrate/collapse likely due to mucus plugging
   restarted vancomycin [**12-7**].
   Antifungals have been discontinued due to negative fungal stain and no
   fungal culture growth. No evidence of cardiac ischemia and pulmonary
   embolus unlikely given patient has been on therapeutic lovenox.
   - Pressure support as tolerated
   - Continue chest tube to water seal, discuss with thoracics when they
   might consider clamping
   - Continue meropenem to complete 14 day course, stop [**12-11**]
   - Discontinue vancomycin this afternoon if negative cultures x 48 hours
   - Continue prednisone 60 mg daily for at least one month as concerned
   for BOOP
   - Lasix today for goal -1L; starting drip to try to meet target
   - ID following; appreciate
   - Oncology following; appreciate
   - Fentanyl patch for chest tube pain and haldol for agitation;
   discontinue fentanyl gtt
   # Paroxysmal atrial fibrillation: Has had atrial fibrillation,
   sometimes with hypotension.
   - Trialed neosynephrine, but patient became too bradycardic -> loaded
   amiodarone, patient to continue on levophed
   - Continuing amiodorone PO
   - Anticoagulated with lovenox
   # Acute renal failure: Improved. Likely medication effect and improved
   with discontinuation of ambisome.
   - Renally dose medications
   # Pancytopenia/Leukocytosis: Pancytopenia originally felt to be
   medication effect given timing, recovered in setting of stopping
   ambisome.  Now all three cell lines are down; sharp decrease in
   platelets, WBC, Hct.
   - recheck CBC today to verify; if counts are still down, search for
   medication effects; unclear what would be culprit on my initial review
   but further review warranted if problem persists
   - Continue meropenem
   - Discontinue vancomycin this PM if negative cultures x 48 hours
   - Pan-cultured
   - HIT antibodies negative
   - Monitor hematocrit and transfuse < 25 or bleeding
   - Monitor platelets and transfuse < 10 or bleeding
   # Fevers: Afebrile x 72 hours, however, on steroids.  Has been broadly
   covered for bacterial pathogens and VATS negative for fungus.  VATS,
   blood, sputum, BAL, urine cultures all NGTD.  Other negative testing
   includes rapid respiratory test for viral pathogens, toxoplasmosis,
   cryptococcus, aspergillus, beta-glucan, coccidiodes, histoplasma,
   strongyloides.
   - Continue meropenem to complete 14 day course, stop [**12-11**]
   - Discontinue vancomycin if negatiave cultures x 48 hours
   - Check CT abdomen for question abdominal tenderness
   - CIS > 100.5
   # Hypotension: Improved despite diuresis.  Also likely component of
   sedation and pneumothorax.
   - Wean levophed and sedation as able
   - Chest tube to water seal, following CXRs
   # Hypernatremia: Resolved.
   - Decrease free water boluses
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.
   - Currently not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2126-12-8**] 09:46 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-12-09 09:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with PMH DLBCL admitted with hypoxemic respiratory
   failure [**1-19**] dense right sided infiltrate. S/P VATS with course c/b
   persistent hypoxemia, tension pneumothorax. Now slowly weaning sedation
   and pressors. Please see previous notes for details.
   24 Hour Events:
   Completed IV amio load
   Off pressors
   Abdominal CT - no acute pathology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-12-9**] 08:00 AM
   Vancomycin - [**2126-12-9**] 08:16 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-12-8**] 10:42 AM
   Haloperidol (Haldol) - [**2126-12-8**] 12:19 PM
   Diltiazem - [**2126-12-8**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-9**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 71 (57 - 150) bpm
   BP: 98/50(64) {75/41(56) - 146/81(100)} mmHg
   RR: 18 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 7 (-5 - 19)mmHg
   Total In:
                                                                  5,260 mL
                                                                  1,896 mL
   PO:
   TF:
                                                                  1,145 mL
                                                                    700 mL
   IVF:
                                                                  2,665 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  1,465 mL
   Urine:
                                                                  3,800 mL
                                                                    975 mL
   NG:
   Stool:
                                                                    350 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,020 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 847 (847 - 847) mL
   PS : 16 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/53/108/35/12
   Ve: 10.8 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   101 K/uL
   103 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.6 mEq/L
   33 mg/dL
   101 mEq/L
   139 mEq/L
   26.7 %
   4.9 K/uL
        [image002.jpg]
                            [**2126-12-7**]  06:00 AM
                            [**2126-12-7**]  02:40 PM
                            [**2126-12-7**]  02:41 PM
                            [**2126-12-8**]  12:00 AM
                            [**2126-12-8**]  04:59 AM
                            [**2126-12-8**]  05:15 AM
                            [**2126-12-8**]  09:53 AM
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
   WBC
   17.0
   15.8
   4.9
   Hct
   33.3
   31.5
   26.7
   Plt
   [**Telephone/Fax (3) 7133**]
   Cr
   159.0
   0.9
   0.7
   0.5
   TCO2
   35
   39
   35
   36
   40
   Glucose
   140
   105
   106
   103
   Other labs: PT / PTT / INR:14.3/33.4/1.2, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:16/18, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 91**]
s note, and would emphasize and add the following points:
   60 year old man PMH DLBCL p/w hypoxemic respiratory failure and
   complicated ICU course notable for tension pneumothorax, hypotenison
   and recurrent afib with RVR. Completing empiric course of antibiotics
   for Right sided infiltrate and on 60mg of prednisone likely for [**1-21**]
   weeks.  Sig. net positive for length of ICU stay will attempt additonal
   diuresis today. S/p amio load for afib, continuing on po amio. Have
   added diltiazem now.
   Attemping to wean sedation, switch to versed if needed in light of
   elevated triglycerides. On vanc pending finalization of new culutres,
   [**Last Name (un) 430**] to end [**12-11**].  Continue with prednisone for treatment of COP.
   Chest tube shows no air [**Last Name (LF) 2400**], [**First Name3 (LF) 178**] discuss with thoracics about
   clamping tube. Possible extubation in AM.
   Further plans as per resident note.
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2126-12-8**] 09:46 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Family meeting held  Comments:
   Code status: Full code, Disposition :ICU
   Total time spent: 38 minutes, Patient is critically ill

2126-12-10 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-9**] 08:11 PM
   Meropenem - [**2126-12-10**] 02:08 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-9**] 11:12 PM
   Diltiazem - [**2126-12-10**] 01:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-10**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 84 (49 - 160) bpm
   BP: 114/57(74) {51/31(38) - 163/81(107)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 73.8 kg
   Height: 70 Inch
    CVP: 10 (2 - 65)mmHg
   Total In:
                                                                  3,645 mL
                                                                    395 mL
   PO:
   TF:
                                                                  1,324 mL
   IVF:
                                                                  1,676 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  5,185 mL
                                                                  1,180 mL
   Urine:
                                                                  4,605 mL
                                                                  1,120 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,540 mL
                                                                   -785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 374 (374 - 374) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.52/44/98.[**Numeric Identifier 248**]/35/12
   Ve: 11.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   130 K/uL
   10.3 g/dL
   84 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.8 mEq/L
   24 mg/dL
   104 mEq/L
   142 mEq/L
   30.2 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-12-8**]  04:59 AM
                            [**2126-12-8**]  05:15 AM
                            [**2126-12-8**]  09:53 AM
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
                            [**2126-12-9**]  10:43 AM
                            [**2126-12-9**]  05:41 PM
                            [**2126-12-10**]  04:30 AM
                            [**2126-12-10**]  04:34 AM
   WBC
   15.8
   4.9
   6.2
   8.4
   Hct
   31.5
   26.7
   28.3
   30.2
   Plt
   [**Telephone/Fax (3) 7147**]30
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   39
   35
   36
   40
   37
   Glucose
   106
   103
   186
   84
   Other labs: PT / PTT / INR:14.6/33.8/1.3, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:49/127, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma now
   w/hypoxic respiratory failure in the setting of RUL infiltrate s/p
   VATS, currently improving.
   # Hypoxic respiratory failure/right upper lobe infiltrate/pneumothorax:
   Improving.  History of respiratory issues here has been:
    * VATS [**11-29**] with pathology simply showing organizing
   pneumonitis/pneumonia
 chest tube remains in place.
   * Steroids started [**12-2**], with right upper lobe infiltrate improving
   generally since then.
   * Meropenem started [**12-2**] to complete a 14 day course; was on numerous
   other antibiotics before this
   * Left lower lobe infiltrate/collapse likely due to mucus plugging
   restarted vancomycin [**12-7**].
   Antifungals have been discontinued due to negative fungal stain and no
   fungal culture growth. No evidence of cardiac ischemia and pulmonary
   embolus unlikely given patient has been on therapeutic lovenox.
   - Pressure support as tolerated
   - Continue meropenem to complete 14 day course, stop [**12-11**]
   - Discontinue vancomycin now
   - Continue prednisone 60 mg daily for at least one month as concerned
   for BOOP
   - Lasix today for goal -1L
   - ID following; appreciate
   - Oncology following; appreciate
   - Fentanyl patch for chest tube pain and haldol for agitation;
   discontinue fentanyl gtt
   # Paroxysmal atrial fibrillation: Has had atrial fibrillation,
   sometimes with hypotension.
   - Trialed neosynephrine, but patient became too bradycardic -> loaded
   amiodarone, patient to continue on levophed
   - Continuing amiodorone PO
   - Anticoagulated with lovenox
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.
   - Currently not neutropenic
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
   # Hypogammaglobulinemia: IgG 311 [**12-1**].
   - Status post IVIG [**12-1**]
   - heme-onc following, appreciate their recs
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2126-12-8**] 09:46 PM 75 mL/hour
   ICU Care
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2126-12-10 09:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with PMH DLBCL admitted with hypoxemic respiratory
   failure. Please see previous noted for details.
   24 Hour Events:
   Afib with RVR yesterday.
   Chest tube dc'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-9**] 08:11 PM
   Meropenem - [**2126-12-10**] 02:08 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-9**] 11:12 PM
   Diltiazem - [**2126-12-10**] 01:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-10**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 84 (49 - 160) bpm
   BP: 114/57(74) {51/31(38) - 163/81(107)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 73.8 kg
   Height: 70 Inch
   CVP: 10 (2 - 65)mmHg
   Total In:
                                                                  3,645 mL
                                                                    399 mL
   PO:
   TF:
                                                                  1,324 mL
   IVF:
                                                                  1,676 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  5,185 mL
                                                                  1,180 mL
   Urine:
                                                                  4,605 mL
                                                                  1,120 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,540 mL
                                                                   -781 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 374 (374 - 374) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.52/44/98.[**Numeric Identifier 248**]/35/12
   Ve: 11.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   130 K/uL
   84 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.8 mEq/L
   24 mg/dL
   104 mEq/L
   142 mEq/L
   30.2 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-12-8**]  04:59 AM
                            [**2126-12-8**]  05:15 AM
                            [**2126-12-8**]  09:53 AM
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
                            [**2126-12-9**]  10:43 AM
                            [**2126-12-9**]  05:41 PM
                            [**2126-12-10**]  04:30 AM
                            [**2126-12-10**]  04:34 AM
   WBC
   15.8
   4.9
   6.2
   8.4
   Hct
   31.5
   26.7
   28.3
   30.2
   Plt
   [**Telephone/Fax (3) 7147**]30
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   39
   35
   36
   40
   37
   Glucose
   106
   103
   186
   84
   Other labs: PT / PTT / INR:14.6/33.8/1.3, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:49/127, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:149 IU/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident
s note, and would emphasize and add the following points:
   60 year old man PMH DLBCL p/w hypoxemic respiratory failure and
   complicated ICU course notable for tension pneumothorax, hypotension
   and recurrent afib with RVR. Completing empiric course of antibiotics
   for right sided infiltrate and on 60mg of prednisone likely for [**1-21**]
   weeks.
   Plan as per resident note. Briefly, marginal oxygenation (pO2:FiO2
   ratio of 197) likely secondary to fluid at this point aim negative
   500cc to 1L today. Persistent issues with afib with RVR and hypotension
   in association with sedation and nodal agents for afib. S/P amio load
   and on po now. Nearly ready to extubate. Chest tube removed.
   Contraction alkalosis for which we will give diamox today. Further
   plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds held for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-12-11 07:44:00 Physician Resident Progress Note
Chief Complaint: Gagging on tube.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-12-11**] 02:06 AM
   Again transiently hypotensive requiring pressors after versed bolus
   yesterday.
   History obtained from Medical records, Overnight resident
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-10**] 08:08 AM
   Meropenem - [**2126-12-11**] 02:22 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2126-12-10**] 08:38 AM
   Enoxaparin (Lovenox) - [**2126-12-10**] 08:37 PM
   Lorazepam (Ativan) - [**2126-12-11**] 12:53 AM
   Morphine Sulfate - [**2126-12-11**] 12:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-11**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 101 (43 - 117) bpm
   BP: 160/84(112) {58/34(42) - 162/84(112)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77 kg (admission): 73.8 kg
   Height: 70 Inch
    CVP: 7 (1 - 11)mmHg
   Total In:
                                                                  2,549 mL
                                                                    509 mL
   PO:
   TF:
                                                                    974 mL
                                                                     33 mL
   IVF:
                                                                  1,265 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                  1,400 mL
   Urine:
                                                                  3,200 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -921 mL
                                                                   -891 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 625 (610 - 625) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: 7.49/42/95.[**Numeric Identifier 96**]/32/7
   Ve: 11.3 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, erythema on left forearm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   9.9 g/dL
   95 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.3 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   28.7 %
   11.7 K/uL
        [image002.jpg]
                            [**2126-12-8**]  09:53 AM
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
                            [**2126-12-9**]  10:43 AM
                            [**2126-12-9**]  05:41 PM
                            [**2126-12-10**]  04:30 AM
                            [**2126-12-10**]  04:34 AM
                            [**2126-12-11**]  03:35 AM
                            [**2126-12-11**]  03:50 AM
   WBC
   4.9
   6.2
   8.4
   11.7
   Hct
   26.7
   28.3
   30.2
   28.7
   Plt
   101
   114
   130
   127
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   35
   36
   40
   37
   33
   Glucose
   103
   186
   84
   95
   Other labs: PT / PTT / INR:14.5/37.5/1.3, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:89/121, Alk Phos / T Bili:112/0.4,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:149 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL Micro: No growth
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma now
   w/hypoxic respiratory failure in the setting of RUL infiltrate s/p
   VATS, currently improving.
   # Hypotension: in the setting of bolus sedation. Currently
   hemodynamically stable.
   - monitor off of sedation w/extubation
   # Hypoxic respiratory failure:  in the setting of right upper lobe
   infiltrate/pneumothorax- Improving.
   - VATS [**11-29**] revealed pneumonitis/pneumonia
 chest tubes discontinued
   this AM.
   * Steroids started [**12-2**], with right upper lobe infiltrate improving
   generally since then.
   # Left lower lobe infiltrate/collapse likely due to mucus plugging
   restarted vancomycin [**12-7**].
   - Continue meropenem to complete 14 day course, stop [**12-11**]
   - Continue prednisone 60 mg daily for at least one month as concerned
   for BOOP
   # Fluid overload- in the setting of fluid resuscitation for hypotension
   which has resolved Lasix today for goal -1L
   - ID following; appreciate their input
   - Fentanyl patch
   - consider extubation tomorrow if continues to do well
   # Paroxysmal atrial fibrillation: Has had atrial fibrillation,
   sometimes with hypotension.
   - Continue amiodorone PO
   - Anticoagulated with lovenox
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.  Complicated by
   Hypogammaglobulinemia: IgG 311 [**12-1**]- - Status post IVIG [**12-1**].
   - Oncology following, appreciate their input
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
   - Continue bactrim prophylaxis
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox treatment
   ICU Care
   Nutrition:  start PO diet as tolerated
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots, lovenox
   Stress ulcer:  PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: Monitor in ICU today post-extubation

2126-12-11 09:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old man with PMH DLBCL s/p MR-CHOP presented with hypoxemic
   respiratory failure as detailed in previous notes.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-12-11**] 02:06 AM
   Some hypotension in the setting of increased sedation yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-10**] 08:08 AM
   Meropenem - [**2126-12-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-12-11**] 12:53 AM
   Morphine Sulfate - [**2126-12-11**] 12:53 AM
   Enoxaparin (Lovenox) - [**2126-12-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-11**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 89 (43 - 117) bpm
   BP: 145/70(97) {58/34(42) - 162/84(112)} mmHg
   RR: 13 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 73.8 kg
   Height: 70 Inch
   CVP: 7 (1 - 11)mmHg
   Total In:
                                                                  2,549 mL
                                                                    758 mL
   PO:
   TF:
                                                                    974 mL
                                                                     33 mL
   IVF:
                                                                  1,265 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                  1,960 mL
   Urine:
                                                                  3,200 mL
                                                                  1,960 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -921 mL
                                                                 -1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 764 (610 - 764) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 6 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.42/47/90.[**Numeric Identifier 128**]/32/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Extubated !
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   127 K/uL
   95 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.3 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   28.7 %
   11.7 K/uL
        [image002.jpg]
                            [**2126-12-8**]  11:24 PM
                            [**2126-12-9**]  03:51 AM
                            [**2126-12-9**]  04:56 AM
                            [**2126-12-9**]  10:43 AM
                            [**2126-12-9**]  05:41 PM
                            [**2126-12-10**]  04:30 AM
                            [**2126-12-10**]  04:34 AM
                            [**2126-12-11**]  03:35 AM
                            [**2126-12-11**]  03:50 AM
                            [**2126-12-11**]  08:31 AM
   WBC
   4.9
   6.2
   8.4
   11.7
   Hct
   26.7
   28.3
   30.2
   28.7
   Plt
   101
   114
   130
   127
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   40
   37
   33
   32
   Glucose
   103
   186
   84
   95
   Other labs: PT / PTT / INR:14.5/37.5/1.3, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:89/121, Alk Phos / T Bili:112/0.4,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:149 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident
s note, and would emphasize and add the following points:
   60 year old man PMH DLBCL p/w hypoxemic respiratory failure d/t
   pneumonia vs COP, complicated ICU course notable for tension
   pneumothorax, hypotension and recurrent afib with RVR. Completing
   empiric course of antibiotics for right sided infiltrate and on 60mg of
   prednisone likely for 2-4 weeks.
   Hypotension overnight likely due to increased sedation. No episodes of
   RVR. S/p amio load, now on po. Ongoing respiratory failure this AM but
   tolerated PSV 5, Peep 0 with PO2 ~90. Extubated uneventfully on rounds.
   Off meropenem. Continue vancomycin pending finalization of recent
   sputum culutre. Continues on empric prednisone 60mg. Further plans as
   per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Arterial Line - [**2126-11-30**] 08:24 AM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments: Extubated this am on rounds
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes, Patient is critically ill

2126-12-12 11:28:00 Physician Resident Progress Note
Chief Complaint: No complaints this AM.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-12-11**] 10:01 AM
 CALLED OUT
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-10**] 08:08 AM
   Meropenem - [**2126-12-12**] 02:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-12-12**] 08:00 AM
   Enoxaparin (Lovenox) - [**2126-12-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2126-12-12**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 85 (59 - 99) bpm
   BP: 134/40(57) {101/40(57) - 134/62(77)} mmHg
   RR: 18 (7 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 73.8 kg
   Height: 70 Inch
             Total In:
                                                                  1,104 mL
                                                                    240 mL
   PO:
             30 mL
   TF:
                                                                     33 mL
   IVF:
                                                                    892 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  5,015 mL
                                                                  1,375 mL
   Urine:
                                                                  5,015 mL
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,911 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): A&Ox
   3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   128 K/uL
   9.8 g/dL
   85 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   18 mg/dL
   107 mEq/L
   140 mEq/L
   28.1 %
   11.1 K/uL
        [image002.jpg]
                            [**2126-12-9**]  10:43 AM
                            [**2126-12-9**]  05:41 PM
                            [**2126-12-10**]  04:30 AM
                            [**2126-12-10**]  04:34 AM
                            [**2126-12-11**]  03:35 AM
                            [**2126-12-11**]  03:50 AM
                            [**2126-12-11**]  08:31 AM
                            [**2126-12-11**]  03:48 PM
                            [**2126-12-11**]  06:00 PM
                            [**2126-12-12**]  04:54 AM
   WBC
   6.2
   8.4
   11.7
   11.1
   Hct
   28.3
   30.2
   28.7
   28.1
   Plt
   114
   130
   127
   128
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   TCO2
   37
   33
   32
   Glucose
   186
   84
   95
   150
   150
   85
   Other labs: PT / PTT / INR:14.9/37.5/1.3, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:89/121, Alk Phos / T Bili:112/0.4,
   Differential-Neuts:87.9 %, Band:4.0 %, Lymph:7.7 %, Mono:3.0 %, Eos:1.3
   %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:149 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   60 year-old male with history of diffuse large B-cell lymphoma RUL
   infiltrate s/p VATS extubated yesterday AM w/o complication, currently
   doing well.
   # RUL infiltrate
 VATS [**11-29**] revealed pneumonitis/pneumonia. Sating in
   low 90s on RA.
   - continue incentive spirometry
   - 14 day course of meropenem completed yesterday
   - Continue prednisone slow taper for at least one month for organizing
   PNA
   - Continue bactrim prophylaxis
   # s/p VATS: fentanyl patch for pain control
   # Fluid overload- in the setting of fluid resuscitation for
   hypotension, has been autodiuresing
   # Paroxysmal atrial fibrillation: stable.
   - Continue amiodorone PO
   - Anticoagulated with lovenox
   # Diffuse large B cell lymphoma: Status post [**5-24**] cycles of MR-CHOP.
   Completed HD-MTX one week prior to admission.  Complicated by
   Hypogammaglobulinemia: IgG 311 [**12-1**]- - Status post IVIG [**12-1**].
   - Oncology following, appreciate their input
   - Monitor hematocrit and transfuse for < 25 or active bleeding
   - Monitor platelets and transfuse for < 10 active bleeding
    # DVT: Diagnosed 11/[**2125**].
   - Continue lovenox treatment
   ICU Care
   Nutrition: PO diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-11-25**] 08:00 PM
   Multi Lumen - [**2126-12-3**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Lovenox)
   Stress ulcer: PPI
   Communication:  with his wife
   [**Name (NI) 66**] status: Full code
   Disposition: c/o to OMED